US06930120B2
2-(3-Bromo-phenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid
5N NaOH (0.5 mL) was added to a solution of 2-(3-Bromo-phenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid ethyl ester and 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester in ethanol (4 mL). The resultant mixture was refluxed under an atmosphere of nitrogen for 2 h, then cooled to ambient temperature. The reaction mixture was concentrated in vacuo, diluted with 1N HCl, and extracted with CH2Cl2. The organic layer was dried through a Varian ChemElut cartridge, concentrated in vacuo, and purified by LCMS. 1H NMR (400 MHz, CDCl3): δ 7.17 (m, 5H), 6.90-6.76 (m, 3H), 4.12 (t, 2H, J=6.26 Hz), 3.22 (d, 1H, J=13.69 Hz), 3.10 (d, 1H, J=13.69 Hz), 2.95 (t, 2H, J=6.26 Hz), 2.90-2.68 (m, 1H), 2.30 (s, 3H), 2.01 (d, 2H, J=13.30 Hz), 1.79 (d, 2H, J=12.90 Hz), 1.69 (d, 1H, J=13.30 Hz), 1.40 (s, 3H), 1.58-1.21 (m, 4H). MS [EI+] 543 (M+H)+.

reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
reactant | 2-(3-Bromo-phenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)(C)OC1=CC(=CC=C1)Br)=O | C30H36BrNO5
reactant | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-2-phenoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1CCCCC1)(OC1=CC=CC=C1)C)=O | C30H37NO5
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-(3-Bromo-phenoxy)-3-{4-[2-(2-cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-methyl-propionic acid | BrC=1C=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C2CCCCC2)C)C=CC1 | C28H32BrNO5
